US05869519
N-[(1-Methylindole-2-Carbonyl)Valinyl]-3-Amino-4-Hydroxy-5-Fluoropentanoic Acid, t-Butyl Ester
DMAP (95 mg, 0.78 mmol) and EDAC (200 mg, 1.04 mmol) were added as solid to a solution of 1-methylindole-2-carboxylic acid (130 mg, 0.74 mmol) and N-(valinyl)-3-amino-4-hydroxy-5-fluoropentanoic acid, t-butyl ester (227 mg, 0.74 mmol) in methylene chloride (5 mL), and the resultant solution was stirred for 1 hour under a nitrogen atmosphere at 0° C. and then 4 hours at room temperature. The reaction mixture was partitioned between ethyl acetate and 5% KHSO4 solution and the aqueous solution was back-extracted with ethyl acetate. The combined ethyl acetate solutions were washed with 5% KHSO4 solution, saturated sodium bicarbonate solution (2×) and brine, dried over sodium sulfate, and concentrated to give a foam. The foam was triturated with ether to yield the title product as a slightly brown solid (224 mg, 65%). TLC: (methanol/methylene chloride, 1:9): Rf =0.46.

reactant | EDAC | 1.04 mmol, 200 mg | CCN=C=NCCCN(C)C | C8H17N3
reactant | 1-methylindole-2-carboxylic acid | 0.74 mmol, 130 mg | CN1C(=CC2=CC=CC=C12)C(=O)O | C10H9NO2
reactant | N-(valinyl)-3-amino-4-hydroxy-5-fluoropentanoic acid, t-butyl ester | 0.74 mmol, 227 mg | N[C@@H](C(C)C)C(=O)NC(CC(=O)OC(C)(C)C)C(CF)O | C14H27FN2O4
catalyst | DMAP | 0.78 mmol, 95 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | methylene chloride | 5 mL | C(Cl)Cl | CH2Cl2
product | N-[(1-Methylindole-2-Carbonyl)Valinyl]-3-Amino-4-Hydroxy-5-Fluoropentanoic Acid, t-Butyl Ester | CN1C(=CC2=CC=CC=C12)C(=O)N[C@@H](C(C)C)C(=O)NC(CC(=O)OC(C)(C)C)C(CF)O | C24H34FN3O5
